US07199147B2
To a suspension of 3-(tritylamino)-2-azepanone (2.85 g, 7.69 mmol) in tetrahydrofuran (30 ml) was added 60%-sodium hydride (462 mg, 11.6 mmol) at 0° C., and then stirred at room temperature for 30 minutes. Subsequently, a solution of benzyl bromide (1.0 ml, 8.41 mmol) in tetrahydrofuran (5 ml) was added dropwise thereto at room temperature over a period of 3 minutes, followed by adding thereto tetra-n-butylammonium iodide (57 mg, 0.15 mmol), and the resulting mixture was stirred at room temperature for 6 hours. The reaction mixture was cooled on an ice-water bath and t-butanol (0.7 ml) and water (1 ml) were added thereto at 0° C. The resulting mixture was poured into water and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: n-hexane/chloroform) to obtain 1-benzyl-3-(tritylamino)-2-azepanone (2.22 g, 63%).

reactant | 3-(tritylamino)-2-azepanone | 7.69 mmol, 2.85 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C(NCCCC1)=O | C25H26N2O
reactant | sodium hydride | 11.6 mmol, 462 mg | [H-].[Na+]
reactant | benzyl bromide | 8.41 mmol, 1.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | t-butanol | 0.7 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 0.15 mmol, 57 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 1-benzyl-3-(tritylamino)-2-azepanone | 2.22 g, 63% | C(C1=CC=CC=C1)N1C(C(CCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H32N2O
